US04699995
Diethyl 2-{3-[3-(1-Octynyl)phenoxy]propyl}propan-1,3-dioate
1-(3-Hydroxyphenyl)-oct-1-yne, (2.20 g, 0.01M) and diethyl 2-(3-hydroxypropyl)propane-1,3-dioate [2.40 g, 0.01M, (prepared by the method of A.G. Just et al, Tet. Letts., 3645-3647, (1979)] were dissolved in dry tetrahydrofuran, (50 ml) and triphenylphosphine, (4.20 g, 0.016M), added. The solution was stirred at 10° C. and diethyl azodicarboxylate, (2.80 g, 0.016M), added dropwise. The reaction was stirred for 0.5 h after which time TLC showed some unreacted phenol remaining. Further aliquots of the alcohol, (2.40 g, 0.01M), triphenylphosphine, (4.20 g, 0.016M) and dietyl azodicarboxylate (2.80 g, 0.016M) were added and the reaction stirred for 0.5 h. Evaporation of the solvent in vacuo gave a red oil which was purified by chromatography on silica gel eluting with dichloromethane→chloroform, to yield 0.770 g (19%) of the title compound as a colourless oil. νmax (film 1580, 1600, 1610, 1740, 1758, 2225 (weak) cm-1 ; δ(CDCl3) 0.87 (3H, distorted t, terminal CH3), 1.26 (6H, t, J 7 Hz, 2×ester CH3), 1.33 (8H, m, alkylene chain), 1.93 (4H, m, OCH2CH2CH2), 2.34 (2H, t, J 6 Hz, acetylenic CH2), 3.37 (1H, t, J 7 Hz, CH), 3.91 (2H, t, J 6 Hz, OCH2), 4.16 (4H, q, J 7 Hz, 2×ester CH2), 7.00 (4H, m, aromatics).

reactant | 1-(3-Hydroxyphenyl)-oct-1-yne | 0.01M, 2.20 g | OC=1C=C(C=CC1)C#CCCCCCC | C14H18O
reactant | diethyl 2-(3-hydroxypropyl)propane-1,3-dioate | OCCCC(C(=O)OCC)C(=O)OCC | C10H18O5
reactant | diethyl azodicarboxylate | 0.016M, 2.80 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | dietyl azodicarboxylate | 0.016M, 2.80 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | triphenylphosphine | 0.016M, 4.20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triphenylphosphine | 0.016M, 4.20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | Diethyl 2-{3-[3-(1-Octynyl)phenoxy]propyl}propan-1,3-dioate | 0.770 g, 19% | C(#CCCCCCC)C=1C=C(OCCCC(C(=O)OCC)C(=O)OCC)C=CC1 | C24H34O5
